US06413991B1
1-Fluoro-5-hydroxycarbazole
A mixture of 1-fluoro-5-oxo-5,6,7,8-tetrahydrocarbazole (111 mg, 0.55 mmol), copper II bromide (244 mg, 1.09 mmol), and 5 mL of ethyl acetate was heated to reflux for about 12 hours. The reaction was cooled to room temperature, treated with celite, and then filtered. The reaction was partitioned between aqueous sodium bicarbonate and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in 5 mL of dimethylformamide and lithium carbonate (52 mg, 0.7 mmol) and lithium bromide (61 mg, 0.7 mmol) were added. The resulting mixture was heated to reflux for 1.5 hours. The reaction was concentrated in vacuo and the crude product was purified via flash silica gel chromatography eluting with 15% ethyl acetate/hexanes to give 32 mg of the title compound. Yield: 18%. 1H NMR. MS(FD).

reactant | 1-fluoro-5-oxo-5,6,7,8-tetrahydrocarbazole | 0.55 mmol, 111 mg | FC1=CC=CC=2C=3C(CCCC3NC12)=O | C12H10FNO
reactant | lithium carbonate | 0.7 mmol, 52 mg | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium bromide | 0.7 mmol, 61 mg | [Br-].[Li+]
catalyst | copper | 1.09 mmol, 244 mg | [Cu] | Cu
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 1-Fluoro-5-hydroxycarbazole | 32 mg, Yield: 18% | FC1=CC=CC=2C3=C(C=CC=C3NC12)O | C12H8FNO
